US07074817B2
A mixture of 1-benzyl-5-bromo-1H-indole (1.00 g, 3.49 mmol), 4-acetylphenylboronic acid (0.692 g, 4.22 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.0581 g, 0.0711 mmol), potassium carbonate (0.725 g, 5.25 mmol) in dioxane (35 mL) and water (3.5 mL) was heated at 65-70° C. for 3 hours. The reaction mixture was evaporated to dryness and partitioned in ethyl acetate and 2N hydrochloric acid. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was purified by flash chromatography using (1-10% ethyl acetate in hexane and 10-15% chloroform in hexane) to yield 1-[4-(1-benzyl-1H-indol-5-yl)phenyl]-1-ethanone as a buff-colored solid (0.262 g, 23%), mp: 134-135° C. 1HNMR (300 MHz, DMSO-d6): δ 7.95-8.1 (m, 3H), 7.85 (d, 2H, J=7.7 Hz), 7.5-7.65 (m, 3H), 7.2-7.4 (m, 5H), 6.6 (d, 1H, J=2.5 Hz), 5.5 (s, 2H), and 2.6 ppm (s, 3H).

reactant | 1-benzyl-5-bromo-1H-indole | 3.49 mmol, 1.00 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)Br | C15H12BrN
reactant | 4-acetylphenylboronic acid | 4.22 mmol, 0.692 g | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
reactant | dichloromethane | 0.0711 mmol, 0.0581 g | ClCCl | CH2Cl2
reactant | potassium carbonate | 5.25 mmol, 0.725 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 35 mL | O1CCOCC1 | C4H8O2
solvent | water | 3.5 mL | O | H2O
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-[4-(1-benzyl-1H-indol-5-yl)phenyl]-1-ethanone | 0.262 g, 23% | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C1=CC=C(C=C1)C(C)=O | C23H19NO
